US09163027B2
2-{[2-({5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}oxy)ethyl](phenyl)amino}ethan-1-ol
A mixture of N-phenyldiethanolamine (8.76 g, 48.3 mmol) and tetrahydrofuran (70 mL) was added to a 200 mL RBF under a nitrogen atmosphere with a magnetic stirring bar. Sodium hydride (60% dispersion in mineral oil) (1.93 g, 48.3 mmol) was added portion-wise (4×˜500 mg) over 10 minutes (Effervescence). The reaction was stirred for 10 minutes before 2-methanesulfonyl-5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidine (9.1 g, 40.3 mmol) was added portion-wise (4×˜2.3 g) over 10 minutes (Effervescence). Progress of the reaction was monitored by analytical HPLC with UV detection at 215 nm. The title compound eluted with retention time of 3.7 min. After 45 minutes the reaction was concentrated under reduced pressure then partitioned between dichloromethane (200 mL) and water (25 mL). The aqueous layer was extracted once more with dichloromethane (100 mL). The combined organic layer was washed with saturated aqueous NaCl (25 mL), dried (Na2SO4), filtered, and concentrated. The crude material was dissolved in ethyl acetate (80 mL) and extracted with 1 N HCl (80 mL) and 0.5 N HCl (10 mL). Solid NaCl was added (˜1-3 g) to the combined acidic extracts with stirring for 10 minutes. The pH was adjusted to basic with 5 N NaOH (˜23 mL) and a gummy precipitate formed. The aqueous layer was decanted into a separatory funnel, and the solid residue was rinsed with an additional 15 mL of water. The combined aqueous layers were extracted with dichloromethane (4×30 mL). The gummy precipitate was dissolved in an additional amount of dichloromethane (50 mL), and the combined organic layers were dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude material was purified by silica gel column chromatography using a gradient elution of 60-100% ethyl acetate in hexanes to afford the title compound as a white solid (8.62 g, 65% yield). 1H NMR (DMSO-d6, 400 MHz) δ ppm: 7.15 (m, 2H), 7.07 (s, 1H), 6.79 (d, 2H), 6.59 (t, 1H), 4.70 (t, 1H), 4.49 (t, 2H), 3.79 (t, 2H), 3.54 (q, 2H), 3.46 (m, 2H), 2.63 (s, 3H), 2.52 (s, 3H). EM (calc.): 327.2; MS (ESI) m/e: 328.2 (M+H)+.

reactant | N-phenyldiethanolamine | 48.3 mmol, 8.76 g | C1(=CC=CC=C1)N(CCO)CCO | C10H15NO2
reactant | Sodium hydride | 48.3 mmol, 1.93 g | [H-].[Na+]
reactant | 2-methanesulfonyl-5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidine | 40.3 mmol, 9.1 g | CS(=O)(=O)C1=NN2C(N=C(C=C2C)C)=N1 | C8H10N4O2S
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 2-{[2-({5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}oxy)ethyl](phenyl)amino}ethan-1-ol | 8.62 g, 65% yield | CC1=NC=2N(C(=C1)C)N=C(N2)OCCN(CCO)C2=CC=CC=C2 | C17H21N5O2
